US05883284
Production of (3S)-3-(N,N-dibenzyl)amino-1-methylsulfinyl-2-oxo-4-phenylbutane
3.76 g (96.39 mmol) of sodium amide was suspended in 40 ml of dimethylsulfoxide and heated at from 74° to 75° C. for 30 minutes. 40 ml of tetrahydrofuran was added to the resulting solution and cooled to 0° C. To this was dropwise added a solution of 15.47 g (90.5 wt. %, 32.14 mmol) of N,N-dibenzyl-(L)-phenylalanine benzyl ester as dissolved in 20 ml of tetrahydrofuran, while keeping it at 0° C. After these were reacted at 0° C. for 30 minutes, 120 ml of an aqueous solution of 10% citric acid and 100 ml of ethyl acetate were added to the reaction mixture, which was thus subjected to phase separation. The aqueous layer thus separated was extracted once with 50 ml of ethyl acetate, and the resulting extract was combined with the previously-separated organic layer and then washed with 60 ml of a saturated saline solution. This was dried with anhydrous sodium sulfate, filtered and concentrated, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=from 2/1 to 1/3) and then crystallized in toluene/hexane to obtain 11.16 g of the above-entitled compound. The yield was 85.6%. The integral ratio in 1H-NMR of the compound verified that the ratio of the diastereomers constituting it is about 1:1.

reactant | sodium amide | 96.39 mmol, 3.76 g | [NH2-].[Na+]
reactant | N,N-dibenzyl-(L)-phenylalanine benzyl ester | 32.14 mmol, 15.47 g | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C30H29NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (3S)-3-(N,N-dibenzyl)amino-1-methylsulfinyl-2-oxo-4-phenylbutane | 11.16 g, yield was 85.6% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@H](C(CS(=O)C)=O)CC1=CC=CC=C1 | C25H27NO2S
